US08492372B2
1-[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]-N-METHYLMETHANAMINE
Preparation according to Example 17 with a small alteration, no base used. 1-(7-bromo-5-fluoro-4H-1,3-benzodioxin-2-yl)-N-methylmethanamine (0.33 g, 1.2 mmol), sodium methanesulfinate (0.18 g, 1.49 mmol, 85%), copperiodide (23 mg, 0.12 mmol), L-proline (69 mg, 0.60 mmol) and DMSO (6.0 ml) was heated at 140° C. for 45 min. Purification by flash column chromatography (EtOAc/MeOH 4:1) afforded the title compound (30 mg, 10%). The amine was converted into the hydrochloric acid salt and crystallized from MeOH/EtOH/DEE. The crystals were washed thoroughly with DEE. M.p. 234° C. 1H-NMR (400 MHz, MeOH): δ 7.28 (2H, m), δ 5.26 (1H, t, J 4.8 Hz), δ 5.05 (2H, dd, J1 20.4 Hz, J2 16.0 Hz), δ 3.13 (3H, s), δ 2.95 (2H, m), δ 2.47 (3H, s).

reactant | 1-(7-bromo-5-fluoro-4H-1,3-benzodioxin-2-yl)-N-methylmethanamine | 1.2 mmol, 0.33 g | BrC=1C=C(C2=C(OC(OC2)CNC)C1)F | C10H11BrFNO2
reactant | sodium methanesulfinate | 1.49 mmol, 0.18 g | CS(=O)[O-].[Na+]
reactant | L-proline | 0.60 mmol, 69 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
catalyst | copperiodide | 0.12 mmol, 23 mg | [Cu](I)I
solvent | DMSO | 6.0 ml | CS(=O)C | C2H6OS
product | 1-[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]-N-METHYLMETHANAMINE | 30 mg, 10% | FC1=CC(=CC=2OC(OCC21)CNC)S(=O)(=O)C | C11H14FNO4S
